US05498748
To a solution of methyl methacrylate (50.1 g, 0.5 mole) and glycidyl methacrylate (28.4 g, 0.2 mole) in toluene (240 ml), 2,2-azobis(methyl 2-methylpropionate) (0.8 g) was added. Then the mixture was reacted with stirring at 80° C. for 7 hours under nitrogen. After cooling, the reaction mixture was poured into methanol (200 ml) and the polymer was precipitated. The polymer was filtered and dried under reduced pressure to give 77 g of poly(methyl methacrylate/glycidyl methacrylate) as a white powder having Mw 35800 and Mn 19200 (GPC with polystyrene calibration). The composition of the polymer was found to be methyl methacrylate unit and glycidyl methacrylate unit in molar ratio of ca. 5:2 based on 1HNMR analysis.

reactant | methyl methacrylate | 0.5 mole, 50.1 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | glycidyl methacrylate | 0.2 mole, 28.4 g | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | methanol | 200 ml | CO | CH4O
solvent | toluene | 240 ml | C1(=CC=CC=C1)C | C7H8
product | methyl methacrylate glycidyl methacrylate | C(C(=C)C)(=O)OC.C(C(=C)C)(=O)OCC1CO1 | InChI=1S/C7H10O3.C5H8O2/c1-5(2)7(8)10-4-6-3-9-6;1-4(2)5(6)7-3/h6H,1,3-4H2,2H3;1H2,2-3H3
